US05578627
To a solution of 0.4 g of 5-chloro-3-(2-tert-butoxycarbonylamino-3-sulfamoyloxypropoxy)-1,2-benzoisoxazole in 10 ml of methanol is added 5 ml of a dioxane solution (3.2N) of hydrogen chloride at room temperature and they are subjected to reaction at the same temperature for 24 hours, after which the solvent is removed by distillation under reduced pressure. To the residue obtained is added 10 ml of ethyl acetate, and the crystals precipitated are collected by filtration, to obtain 0.24 g of colorless, crystalline 3-(2-amino-3-sulfamoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 150.5°-152.5° C. (decomp.).

reactant | 5-chloro-3-(2-tert-butoxycarbonylamino-3-sulfamoyloxypropoxy)-1,2-benzoisoxazole | 0.4 g | ClC=1C=CC2=C(C(=NO2)OCC(COS(N)(=O)=O)NC(=O)OC(C)(C)C)C1 | C15H20ClN3O7S
reactant | dioxane | 3.2N, 5 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 3-(2-amino-3-sulfamoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COS(N)(=O)=O | InChI=1S/C10H12ClN3O5S.ClH/c11-6-1-2-9-8(3-6)10(14-19-9)17-4-7(12)5-18-20(13,15)16;/h1-3,7H,4-5,12H2,(H2,13,15,16);1H
